US08912186B2
The mixture of ethyl N-(4-chlorophenyl)glycinate (0.43 g), 5-chloro-2-chloromethylbenzimidazole (0.4 g), and sodium bicarbonate (0.17 g) in N,N-dimethylformamide (2 ml) was stirred at 150° C. for 0.5 h. After cooling to rt the mixture was poured into saturated sodium bicarbonate solution (50 ml) and extracted twice with EtOAc (40 ml). The combined organic layers were washed with 10% sodium carbonate solution (40 ml) and water (40 ml) and dried (sodium sulfate). After concentration the crude (0.66 g) was purified by flash chromatography (dichloromethane/1% methanol) on silica gel to provide an orange solid. The solid was further purified by trituration with diethyl ether to give ethyl N-[(5-chloro-2-benzimidazolyl)methyl]-N-(4-chlorophenyl)glycinate (0.17 g) as a light orange crystals.

reactant | ethyl N-(4-chlorophenyl)glycinate | 0.43 g | ClC1=CC=C(C=C1)NCC(=O)OCC | C10H12ClNO2
reactant | 5-chloro-2-chloromethylbenzimidazole | 0.4 g | ClC1=CC2=C(N=C(N2)CCl)C=C1 | C8H6Cl2N2
reactant | sodium bicarbonate | 0.17 g | C([O-])(O)=O.[Na+]
reactant | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | ethyl N-[(5-chloro-2-benzimidazolyl)methyl]-N-(4-chlorophenyl)glycinate | 0.17 g | ClC1=CC2=C(N=C(N2)CN(CC(=O)OCC)C2=CC=C(C=C2)Cl)C=C1 | C18H17Cl2N3O2
